US04831193
The nitration step (a) may be effected by using various nitrating agents such as concentrated nitric-sulfuric acid, potassium nitrate--sulfuric acid and nitric acid-acetic acid. The preferred nitrating agent is connected nitric-sulfuric acid. The reaction is carried out by slowly adding fuming nitric acid to a mixture of benzotrifluoride in concentrated sulfuric acid while maintaining the temperature of the reaction between 0° to 40° C., preferably 20°-30° C. When the addition is complete, the reaction is allowed to continue for 1 to 2 hours, preferably 1 hour at room temperature. 3-Nitrobenzotrifluoride is isolated from the reaction mixture by conventional techniques.

reactant | potassium nitrate | [N+](=O)([O-])[O-].[K+]
reactant | nitric acid acetic acid | [N+](=O)(O)[O-].C(C)(=O)O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | benzotrifluoride | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-Nitrobenzotrifluoride | [N+](=O)([O-])C=1C=C(C=CC1)C(F)(F)F | C7H4F3NO2
